### PR TITLE
Add Erdős Problem 190 (canonical van der Waerden numbers), link the formal proof

### LINKED ISSUE #6187: Erdős Problem 190
### What is the Erdős problem?

https://www.erdosproblems.com/190

Let $H(k)$ be the smallest $N$ such that in any finite colouring of $\{1,\ldots,N\}$ (into any number of colours) there is always either a monochromatic $k$-term arithmetic progression or a rainbow arithmetic progression. Estimate $H(k)$. Is it true that $H(k)^{1/k}/k \to \infty$?

Status: solved (Lean). Yes (Hunter's recurrence; Bae; Fox–Hunter); a formal proof exists in plby/lean-proofs (`Erdos190.erdos_190`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05
* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6187.

### What changed
Adds `FormalConjectures/ErdosProblems/190.lean` with `HasMonochromaticOrRainbowAP k N c`, the canonical van der Waerden number `H k` (colourings are `ℕ → ℕ`, equivalent to colourings into any finite set of colours), and:
- `erdos_190` (`research solved`, `answer(True)`): `H(k)^{1/k}/k → ∞` (Hunter [Hu25b], Bae [Ba26], Fox–Hunter [FoHu26]). Linked to plby/lean-proofs `Erdos190.erdos_190` (Codex and GPT-5.6 Sol; 10 files including their copy of PrimeNumberTheoremAnd's Wiener–Ikehara development, all Mathlib-only).
- `erdos_190.variants.fox_hunter` (`research solved`): `H(k) ≥ k^{(1 − o(1)) k log k}`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos190.erdos_190` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby quantifies colourings over all finite colour types and uses an `AP` structure; the bridge shows the two "good `N`" predicates agree (encoding colours via `Fintype.equivFin` in one direction and the range of the colouring in the other), hence the two `H` agree:

<details>
<summary>Bridge</summary>

```lean
open Filter

namespace Bridge190

lemma good_iff (k N : ℕ) (hN : 0 < N) :
    (∀ c : ℕ → ℕ, Erdos190.HasMonochromaticOrRainbowAP k N c) ↔ Erdos190Plby.Good k N := by
  constructor
  · intro h C _ c
    let e := Fintype.equivFin C
    let c' : ℕ → ℕ := fun n => if hn : n < N then (e (c ⟨n, hn⟩) : ℕ) else 0
    obtain ⟨a, d, hd, hlt, hcase⟩ := h c'
    have hterm : ∀ i : Fin k, a + i.1 * d < N := fun i => by
      have : i.1 * d ≤ (k - 1) * d := Nat.mul_le_mul_right d (by omega)
      omega
    let P : Erdos190Plby.AP N k := ⟨a, d, hd, hterm⟩
    have hc' : ∀ i : Fin k, c' (a + i.1 * d) = e (c (P.term i)) := fun i => by
      simp only [c', hterm i, dite_true]
      rfl
    refine ⟨P, ?_⟩
    rcases hcase with hmono | hrain
    · left
      intro i j
      have hi := hmono i i.2
      have hj := hmono j j.2
      rw [hc'] at hi hj
      exact e.injective (Fin.ext (by rw [hi, hj]))
    · right
      intro i j hij
      simp only [Function.comp] at hij
      have := hrain i i.2 j j.2 (by rw [hc', hc', hij])
      exact Fin.ext this
  · intro h c
    rcases Nat.eq_zero_or_pos k with rfl | hk
    · exact ⟨0, 1, one_pos, by simpa using hN, Or.inl fun i hi => absurd hi (Nat.not_lt_zero _)⟩
    classical
    let C := ↥(Set.range fun i : Fin N => c i)
    let c'' : Fin N → C := fun i => ⟨c i, i, rfl⟩
    obtain ⟨P, hP⟩ := h C inferInstance c''
    refine ⟨P.start, P.step, P.step_pos, ?_, ?_⟩
    · have := P.isLt ⟨k - 1, by omega⟩
      simpa using this
    · rcases hP with hmono | hrain
      · left
        intro i hi
        have := hmono ⟨i, hi⟩ ⟨0, hk⟩
        have := congrArg Subtype.val this
        simpa [c'', Erdos190Plby.AP.term] using this
      · right
        intro i hi j hj hij
        have : c'' (P.term ⟨i, hi⟩) = c'' (P.term ⟨j, hj⟩) := by
          apply Subtype.ext
          simpa [c'', Erdos190Plby.AP.term] using hij
        have := hrain this
        simpa using congrArg Fin.val this

lemma H_eq (k : ℕ) : Erdos190.H k = Erdos190Plby.H k := by
  unfold Erdos190.H Erdos190Plby.H
  congr 1
  ext N
  simp only [Set.mem_ofPred_eq]
  constructor
  · rintro ⟨hN, h⟩
    exact ⟨hN, (good_iff k N hN).1 h⟩
  · rintro ⟨hN, h⟩
    exact ⟨hN, (good_iff k N hN).2 h⟩

theorem erdos_190_bridge : type_of% Erdos190.erdos_190 := by
  show True ↔ _
  simp only [true_iff, H_eq]
  exact Erdos190Plby.erdos_190

end Bridge190
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«190»` passes.

### CODE REVIEW

**Comment by Konamiu** [comment]
Note: #6021 (jbaelaw, 2026-09-15) also adds 190. This PR additionally links plby's verified proof with a bridge; happy to close in favour of #6021 or to port the link there, whichever the maintainers prefer.

File: FormalConjectures/ErdosProblems/190.lean [hunk 1]
```diff
@@ -0,0 +1,87 @@
...
+open Filter
+
+namespace Erdos190
+
+/-- A colouring `c` of `{0, …, N - 1}` contains either a monochromatic `k`-term arithmetic
+progression or a rainbow one (all terms of different colours). -/
+def HasMonochromaticOrRainbowAP (k N : ℕ) (c : ℕ → ℕ) : Prop :=
+  ∃ a d : ℕ, 0 < d ∧ a + (k - 1) * d < N ∧
+    ((∀ i < k, c (a + i * d) = c a) ∨
+      (∀ i < k, ∀ j < k, c (a + i * d) = c (a + j * d) → i = j))
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/190.lean:48]: seems like a potentially good candidate for better integration with our AP api, perhaps also coordinate with [#6021](https://github.com/google-deepmind/formal-conjectures/pull/6021)
